US04080473
A solution of glycine (75.1 g.) in normal sodium hydroxide solution (one litre) is heated at 36° C. A solution of isopropyl isocyanate (76.5 g.) in acetone (100 cc.) is then added dropwise, whilst stirring. A rise in temperature from 36° to 50° C is observed in the course of the addition. The reaction mixture is stirred for a further 30 minutes after the end of the addition. Crushed ice (500 g.) and water (250 cc.) are then added and the mixture is acidified by adding 5 N hydrochloric acid (200 cc.), while stirring. The precipitate is then filtered off, and dried. 2-(3-Isopropylureido)-acetic acid (70 g.) melting at 178° C is thus obtained. A second crop (44 g.) of 2-(3-isopropylureido)-acetic acid, melting at 178° C, is obtained by concentrating the filtrate.

reactant | glycine | 75.1 g | NCC(=O)O | C2H5NO2
reactant | isopropyl isocyanate | 76.5 g | C(C)(C)N=C=O | C4H7NO
reactant | water | 250 cc | O | H2O
reactant | hydrochloric acid | 5 N, 200 cc | Cl | ClH
solvent | sodium hydroxide | one litre | [OH-].[Na+]
solvent | acetone | 100 cc | CC(=O)C | C3H6O
product | 2-(3-Isopropylureido)-acetic acid | 70 g | C(C)(C)NC(NCC(=O)O)=O | C6H12N2O3
